US07214824B2
31(b): 4-tert-Butyl-3-(2-methoxyethoxy)phenol
To a methylene dichloride (3 ml) solution of tert-butyl 4-tert-butyl-3-(2-methoxyethoxy)phenyl carbonate (792 mg, 2.4 mmol) was added trifluoroacetic acid (TFA) (3 ml) and the mixture was stirred for 1 hour at ambient temperature. The solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=⅓ to furnish 0.32 g (59% yield) of the title compound as a white solid.

reactant | tert-butyl 4-tert-butyl-3-(2-methoxyethoxy)phenyl carbonate | 2.4 mmol, 792 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)OCCOC)=O | C18H28O5
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene dichloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-tert-Butyl-3-(2-methoxyethoxy)phenol | 0.32 g, 59% yield | C(C)(C)(C)C1=C(C=C(C=C1)O)OCCOC | C13H20O3
